US04197241
3-Ethylhexahydro-3-(3-hydroxyphenyl)-1-methyl-2H-azepin-2-one
Butyl lithium (77 ml of a 1.4 molar solution in hexane) was added to a solution of diisopropylamine (14.8 ml) in dry tetrahydrofuran (20 ml) at -10° C. under nitrogen. The mixture was stirred at -10° C. for ten minutes and finely powdered hexahydro-3-(3-hydroxyphenyl)-1-methyl-2H-azepin-2-one (11 g) was added. Tetrahydrofuran (500 ml) was added and the mixture heated under reflux for 3 hours. After cooling, ethyl iodide (8.2 g) was added and the mixture again heated under reflux for 3 hours. Water (20 ml) was then cautiously added to the cooled solution and the mixture evaporated to a brown residue. After dissolving in water the mixture was extracted with dichloromethane and the dichloromethane extracted in turn with 2 M sodium hydroxide. The aqueous and sodium hydroxide washings were combined and acidified with concentrated hydrochloric acid. The precipitated solid was filtered, washed with water, dried and recrystallised from ethyl acetate, affording 8.72 g of the title compound as white crystals, m.p. 178°-180° C.

reactant | Butyl lithium | C(CCC)[Li]
reactant | diisopropylamine | 14.8 ml | C(C)(C)NC(C)C | C6H15N
reactant | hexahydro-3-(3-hydroxyphenyl)-1-methyl-2H-azepin-2-one | 11 g | OC=1C=C(C=CC1)C1C(N(CCCC1)C)=O | C13H17NO2
reactant | ethyl iodide | 8.2 g | C(C)I | C2H5I
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | Water | 20 ml | O | H2O
product | 3-Ethylhexahydro-3-(3-hydroxyphenyl)-1-methyl-2H-azepin-2-one | 8.72 g | C(C)C1(C(N(CCCC1)C)=O)C1=CC(=CC=C1)O | C15H21NO2
